US09328118B2
A 4 M solution of hydrogen chloride in EtOAc (0.12 mL) was added to a solution of 4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (80 mg) in CH2Cl2 (1.5 mL) at room temperature, and the mixture was stirred at the same temperature for 0.5 hours. The reaction mixture was concentrated under reduced pressure, and diisopropyl ether was added to the residue. The precipitate was washed with diisopropyl ether, and collected by filtration, whereby 4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (50 mg) was obtained as a pale yellow solid.

reactant | hydrogen chloride | Cl | ClH
reactant | 4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 80 mg | C(C)N1CCC(CC1)CCOC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)CCOC)C(F)(F)F | C26H30F3N5O2
solvent | EtOAc | 0.12 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 50 mg | Cl.C(C)N1CCC(CC1)CCOC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)CCOC)C(F)(F)F | InChI=1S/C26H30F3N5O2.ClH/c1-3-33-10-6-18(7-11-33)9-14-36-22-5-4-19(16-21(22)26(27,28)29)24-20-8-12-34(13-15-35-2)25(20)32-23(17-30)31-24;/h4-5,8,12,16,18H,3,6-7,9-11,13-15H2,1-2H3;1H
